US08017602B2
Step ii) N-Cyclohexyl-3-(3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)-N-(2-oxoethyl)propanamide
N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanamide (0.5 g) was stirred in DCM (10 mL) followed by the addition of p-toluenesulfonic acid monohydrate (0.43 g). The mixture was stirred for 1 h. Ethyl acetate was added followed by sodium hydrogen carbonate solution. The aqueous phase was removed and the remaining organic phase washed once with water, once with brine, dried over sodium sulphate, filtered and the solvent removed to afford the desired material as an oil (0.48 g). This material was used in the next step directly. MS [M+H]+=398 (MultiMode+)

reactant | N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanamide | 0.5 g | C1(CCCCC1)N(C(CCOCCC1=CC(=CC=C1)C=1C=NN(C1)C)=O)CC(OC)OC | C25H37N3O4
reactant | p-toluenesulfonic acid monohydrate | 0.43 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-Cyclohexyl-3-(3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)-N-(2-oxoethyl)propanamide | 0.48 g | C1(CCCCC1)N(C(CCOCCC1=CC(=CC=C1)C=1C=NN(C1)C)=O)CC=O | C23H31N3O3
